US06277862B1
(S)-N-(a-ethylbenzyl)-3-(2-aminoacetylaminoethoxy)-2-phenylquinoline-4-carboxamide
3.0 g (7.1 mmol) of (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide (compound of Description 4) were dissolved, under nitrogen atmosphere, in 60 ml of CH2Cl2 and 1.2 ml (8.5 mmol) of TEA were added; the solution was cooled to 0° C. and 2.7 g (8.5 mmol) of (9-fluorenylmethoxy carbonyl)glycinyl chloride (FMOC-glycinyl chloride), dissolved in 60 ml of CH2Cl2, were added dropwise. The reaction mixture was stirred at room temperature for 3 hours and then washed with sat. sol. NaCl, 20% citric acid, sat. sol. NaHCO3, sat. sol. NaCl, dried over Na2SO4 and evaporated in vacuo to dryness. The crude product was purified by gradient flash column chromatography on 230-400 mesh silica gel, utilising a mixture of hexane/EtOAc 1:1 as starting eluent and a mixture of EtOAc/MeOH 9:1 as final eluent. The product (5.0 g) was dissolved in 100 ml of a 10% solution of diethylamine in DMF and stirred at room temperature for 30 minutes. The reaction mixture was then evaporated in vacuo and purified by gradient flash column chromatography on 230-400 mesh silica gel, utilising a mixture of EtOAc/MeOH 9:1 as starting eluent and a mixture of EtOAc/MeOH 7:3 as final eluent, to yield 0.6 g of the title compound.

reactant | (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide | 7.1 mmol, 3.0 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCN | C27H27N3O2
reactant | (9-fluorenylmethoxy carbonyl)glycinyl chloride | 8.5 mmol, 2.7 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)Cl | C17H14ClNO3
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-(a-ethylbenzyl)-3-(2-aminoacetylaminoethoxy)-2-phenylquinoline-4-carboxamide | 0.6 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCNC(CN)=O | C29H30N4O3
